US08895574B2
To a solution of 4-chloro-5-methoxypyrimidine (1.5 g, 10.3 mmol) described in Journal of the Chemical Society (1960), 4590, and 4-t-butylbenzylalcohol (2.55 g, 15.6 mmol) in dimethylacetamide (10 mL) was added sodium hydride (0.625 g, 15.6 mmol) at 0° C., and the mixture was stirred at room temperature for 3 hrs. The reaction mixture was poured into ice water, and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 4-(4-t-butylbenzyloxy)-5-methoxypyrimidine (2.16 g).

reactant | 4-chloro-5-methoxypyrimidine | 10.3 mmol, 1.5 g | ClC1=NC=NC=C1OC | C5H5ClN2O
reactant | 4-t-butylbenzylalcohol | 15.6 mmol, 2.55 g | C(C)(C)(C)C1=CC=C(CO)C=C1 | C11H16O
reactant | sodium hydride | 15.6 mmol, 0.625 g | [H-].[Na+]
solvent | dimethylacetamide | 10 mL | CC(=O)N(C)C | C4H9NO
product | 4-(4-t-butylbenzyloxy)-5-methoxypyrimidine | 2.16 g, yield: 77% | C(C)(C)(C)C1=CC=C(COC2=NC=NC=C2OC)C=C1 | C16H20N2O2
